US09212182B2
This was prepared in a manner analogous to 6-(cyclopropylmethoxy)pyrimidin-4-amine, where cyclopentylmethanol was used as the alcohol. 6-(cyclopentylmethoxy)pyrimidin-4-amine (0.266 g, 1.376 mmol, 89% yield) was obtained as a white solid. m/z (ESI) 194.2 (M+H)+.

reactant | 6-(cyclopropylmethoxy)pyrimidin-4-amine | C1(CC1)COC1=CC(=NC=N1)N | C8H11N3O
reactant | cyclopentylmethanol | C1(CCCC1)CO | C6H12O
product | 6-(cyclopentylmethoxy)pyrimidin-4-amine | 1.376 mmol, 0.266 g, 89% yield | C1(CCCC1)COC1=CC(=NC=N1)N | C10H15N3O
